US09382226B2
To a stirred solution of 3-(cyclopropylamino)-4-nitrobenzonitrile (2.0 g, 0.009 mol) in EtOH (20 ml) was hydrogenated using Pd/C for 2 h at room temperature. The reaction was filtered through CELITE® and the filter bed was thoroughly washed with EtOH. The resulting solution was concentrated to provide 4-amino-3-(cyclopropylamino) benzonitrile as a brownish solid. 1H NMR (400 MHz, DMSO-d6), δ: 6.92 (bs, 1H), 6.88-6.86 (d, J=8 Hz, 1H), 6.55-6.53 (d, J=8.4 Hz, 1H), 5.50 (bs, 1H), 5.44 (s, 2H), 2.36-2.34 (m, 1H), 0.76-0.71 (m, 2H), 0.39-0.34 (m, 2H). MS (M+1): 174.

reactant | 3-(cyclopropylamino)-4-nitrobenzonitrile | 0.009 mol, 2.0 g | C1(CC1)NC=1C=C(C#N)C=CC1[N+](=O)[O-] | C10H9N3O2
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-amino-3-(cyclopropylamino) benzonitrile | NC1=C(C=C(C#N)C=C1)NC1CC1 | C10H11N3
